US08557803B2
N,N-dibenzyl-6-chloro-5-nitropyrimidine-4-amine
Dibenzylamine (10.2 g) in a dichloromethane (30 mL) solution was added dropwise on an ice bath to a dichloromethane (70 mL) solution of 4,6-dichloro-5-nitropyrimidine (10 g). This was followed by the addition of triethylamine (14.4 mL) and stirring for 1 hour. Water was then added to the reaction mixture and the organic layer was subsequently washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure to obtain the title compound (19.2 g) having the physical property value indicated below.

reactant | Dibenzylamine | 10.2 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | dichloromethane | 30 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 70 mL | ClCCl | CH2Cl2
reactant | 4,6-dichloro-5-nitropyrimidine | 10 g | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | triethylamine | 14.4 mL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | N,N-dibenzyl-6-chloro-5-nitropyrimidine-4-amine | 19.2 g | C(C1=CC=CC=C1)N(C1=NC=NC(=C1[N+](=O)[O-])Cl)CC1=CC=CC=C1 | C18H15ClN4O2
